US05084463
Step 3) Preparation of 2-(Methylaminomethyl)benzofuran
2-(Chloromethyl) benzofuran (2.77 g, 16.63 mmol) was dissolved in aqueous methylamine (40 mL, 40 wt % in H2O) at 10° C. under a nitrogen atmosphere. After 10 minutes, the reaction mixture was warmed to room temperature and stirring was continued for 72 hours. The mixture was diluted with water and extracted with dichloromethane. The organic phase was dried (MgSO4) and concentrated to afford crude product which was purified by flash column chromatography (10% methanol/dichloromethane) to afford 1.00 g (37%) of pure product as a pale yellow oil.

reactant | 2-(Chloromethyl) benzofuran | 16.63 mmol, 2.77 g | ClCC=1OC2=C(C1)C=CC=C2 | C9H7ClO
reactant | methylamine | 40 mL | CN | CH5N
solvent | water | O | H2O
product | 2-(Methylaminomethyl)benzofuran | 1.00 g, 37% | CNCC=1OC2=C(C1)C=CC=C2 | C10H11NO
